US09399636B2
Step 1: 2,6-dichloro-4-(tetrahydro-2H-pyran-4-yl)pyridine
To a 100 mL round-bottomed flask containing zinc dust (2.03 g, 31.0 mmol, 1.70 equiv) in N,N-dimethylacetamide (20 mL) was added chlorotrimethylsilane (0.473 mL, 3.65 mmol, 0.200 equiv) and 1,2-dibromoethane (0.318 mL, 3.65 mmol, 0.200 equiv) over 10 min. A solution of 4-bromotetrahydro-2H-pyran (2.88 mL, 25.6 mmol, 1.40 equiv) in N,N-dimethylacetamide (15 mL) was then added to the mixture. After 30 min, the reaction mixture was filtered over Celite and added to a round-bottomed flask containing [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (745 mg, 0.913 mmol, 0.0500 equiv), cuprous iodide (348 mg, 1.83 mmol, 0.100 equiv), and 2,6-dichloro-4-iodo-pyridine (5.00 g, 18.3 mmol, 1.00 equiv). The reaction was then heated to 80° C. for 16 h. After cooling to room temperature, the reaction mixture was filtered over Celite washing with ethyl acetate (3×10 mL) and concentrated to dryness. Purification by flash column chromatography (30:70 ethyl acetate/heptane) furnished the product as a white solid (3.00 g, 71% yield). 1H NMR (CDCl3, 400 MHz), δ: 7.11 (s, 1H), 4.09 (dt, J=11.6, 3.3 Hz, 2H), 3.57-3.42 (m, 2H), 2.85-2.70 (m, 1H), 1.77 (tt, J=7.5, 3.7 Hz, 4H).

reactant | chlorotrimethylsilane | 3.65 mmol, 0.473 mL, 0.200 equiv | Cl[Si](C)(C)C | C3H9ClSi
reactant | 1,2-dibromoethane | 3.65 mmol, 0.318 mL, 0.200 equiv | BrCCBr | C2H4Br2
reactant | 4-bromotetrahydro-2H-pyran | 25.6 mmol, 2.88 mL, 1.40 equiv | BrC1CCOCC1 | C5H9BrO
reactant | 2,6-dichloro-4-iodo-pyridine | 18.3 mmol, 5.00 g, 1.00 equiv | ClC1=NC(=CC(=C1)I)Cl | C5H2Cl2IN
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
catalyst | zinc | 31.0 mmol, 2.03 g, 1.70 equiv | [Zn] | Zn
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.913 mmol, 745 mg, 0.0500 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,6-dichloro-4-(tetrahydro-2H-pyran-4-yl)pyridine | 3.00 g, 71% yield | ClC1=NC(=CC(=C1)C1CCOCC1)Cl | C10H11Cl2NO
